US06737543B2
Preparation of PPG-4 Butyloctyl Ether Ethylhexanoate
4 moles (744 grams) of Butyloctanol were charged to an autoclave, and 0.1% of Potassium Hydroxide was added as catalyst. The autoclave was purged with Nitrogen and 16 moles (928 grams) of Propylene Oxide were added at a temperature of 150-160° C. and a pressure of 30-40 psi. Upon completion, the batch was cooled to 80° C. and neutralized with Phosphoric Acid. The resultant product, PPG-4 Butyloctyl Ether, was a very pale yellow liquid. A four-neck flask was charged with 1,224 grams of the PPG-4 Butyloctyl Ether, along with 3 moles (432 grams) of 2-Ethyl Hexanoic Acid. A catalytic amount of p-Toluenesulfonic Acid was added and the reaction mixture was heated with agitation to 160° C. until an acid value of less than 5 mg KOH was obtained. The reaction mixture was cooled to 80° C., washed with a dilute Sodium Hydroxide solution sufficient to neutralize the residual acid present, followed by washing with water. The ester layer was separated and heated under vacuum until a moisture content of less than 0.2% was obtained, followed by vacuum filtration. The resultant product, PPG-4 Butyloctyl Ether Ethylhexanoate, was a clear very pale yellow liquid having an acid value of less than 0.1 mg KOH.

reactant | Butyloctanol | 4 moles, 744 grams | C(CCC)C(CCCCCCC)O | C12H26O
reactant | Potassium Hydroxide | [OH-].[K+]
reactant | Propylene Oxide | 16 moles, 928 grams | C1C(C)O1 | C3H6O
reactant | Phosphoric Acid | P(O)(O)(O)=O | H3O4P
reactant | Butyloctyl Ether | C(CCC)OCCCCCCCC | C12H26O
reactant | 2-Ethyl Hexanoic Acid | 3 moles, 432 grams | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | p-Toluenesulfonic Acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | KOH | less than 5 mg | [OH-].[K+]
product | Butyloctyl Ether Ethylhexanoate | C(C)OC(CCCCC)=O.C(CCC)OCCCCCCCC | InChI=1S/C12H26O.C8H16O2/c1-3-5-7-8-9-10-12-13-11-6-4-2;1-3-5-6-7-8(9)10-4-2/h3-12H2,1-2H3;3-7H2,1-2H3
